US07812183B2
6-(4-Chloro-phenyl)-2-(3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-4-yl)-2H-pyridazin-3-one (Compound #112)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene and 6-(4-chloro-phenyl)-2H-pyridazin-3-one as starting materials, the title compound was prepared as a pale yellow solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene | CC1(C2C(C3=CN=CC=C3O1)O2)C | C10H11NO2
reactant | 6-(4-chloro-phenyl)-2H-pyridazin-3-one | ClC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7ClN2O
product | 6-(4-Chloro-phenyl)-2-(3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-4-yl)-2H-pyridazin-3-one | ClC1=CC=C(C=C1)C=1C=CC(N(N1)C1C(C(OC2=C1C=NC=C2)(C)C)O)=O | C20H18ClN3O3
